data/mechanism_extracts/AdvSynthCatal/10.1002_adsc.202200847.json
{"doi": "10.1002_adsc.202200847", "journal": "AdvSynthCatal", "is_review": false, "rxn_class_summary": "Electrochemical intramolecular cyclization of 2-alkenyl-substituted arenes (benzoic acids, benzamides, phenols, anilines) to give phthalides, isoindolinones, benzofurans, and indoles via anodic oxidation of the alkene to a radical cation followed by heteroatom cyclization.", "mechanism_family": ["radical_cation", "radical_anodic", "radical_polar_crossover"], "electrochemical_role": "Anodic oxidation of the styrenyl alkene to a radical cation that is intercepted by a tethered nucleophile (CO2-, CONHR, OH, NHTs); for 2-alkenylbenzoic acid 1a a prior cathodic reduction generates the carboxylate (Int-1a) with H2 evolution before anodic oxidation.", "key_intermediates": [{"name": "carboxylate from cathodic deprotonation of 1a (Int-1a)", "smiles": null, "role": "transient"}, {"name": "alkene radical cation of 2-alkenylbenzoate (Int-1b)", "smiles": null, "role": "reactive"}, {"name": "benzylic radical from 5-exo cyclization (Int-1c)", "smiles": null, "role": "reactive"}, {"name": "benzylic radical from 6-endo cyclization (Int-1c')", "smiles": null, "role": "reactive"}, {"name": "benzylic cation (Int-1d) trapped by methoxide to give phthalide 2a", "smiles": null, "role": "reactive"}, {"name": "radical cation of 2-alkenylbenzamide 4a (Int-4a)", "smiles": null, "role": "reactive"}, {"name": "isoindoline C-radical (Int-4b) after cyclization/deprotonation", "smiles": null, "role": "reactive"}, {"name": "radical cation of 2-styrylphenol 7a (Int-7a)", "smiles": null, "role": "reactive"}, {"name": "dihydrobenzofuran C-radical (Int-7b)", "smiles": null, "role": "reactive"}, {"name": "tosyloxy-trapped benzylic radical (Int-7d)", "smiles": null, "role": "reactive"}, {"name": "tosyloxy-substituted dihydrobenzofuran cation (Int-7e/Int-7f)", "smiles": null, "role": "reactive"}, {"name": "radical cation of N-Ts 2-alkenylaniline 9a (Int-9a)", "smiles": null, "role": "reactive"}, {"name": "indoline C-radical (Int-9b) and cation (Int-9c)", "smiles": null, "role": "reactive"}], "electron_flow": "For the phthalide manifold, the cathode first reduces the carboxylic acid (H2 evolution) to its carboxylate, which is then anodically oxidized at the alkene to a radical cation; 5-exo (or 6-endo in HFIP) O-cyclization gives a benzylic radical that is further oxidized at the anode to a cation and trapped by MeOH/methoxide. For benzamide, phenol, and N-Ts aniline substrates, direct anodic oxidation of the styrene gives a radical cation, intramolecular N- or O-attack with loss of H+ affords a cyclic C-radical, which is oxidized again to a cation (or in the benzamide case undergoes HAT with MeCN) and loses H+ to give the aromatic isoindolinone/benzofuran/indole; in the benzofuran case tosylate is incorporated then β-eliminated.", "rate_determining_step": null, "probe_reagents": [{"name": "TEMPO", "smiles": "CC1(C)CCCC(C)(C)N1[O]", "purpose": "radical_trap", "observation": "All four reactions inhibited; no TEMPO adduct detected by MS."}, {"name": "BHT", "smiles": "CC(C)(C)c1cc(C)cc(C(C)(C)C)c1O", "purpose": "radical_trap", "observation": "Reactions inhibited; trace product only; no BHT adduct detected."}, {"name": "acetonitrile-d3", "smiles": "[2H]C([2H])([2H])C#N", "purpose": "H/D_labeling", "observation": "50% D incorporation into the CH2 of isoindolinone 5a, supporting HAT from MeCN to Int-4b."}, {"name": "(E)-stilbene", "smiles": "C(=C/c1ccccc1)\\c1ccccc1", "purpose": "intermediate_trap", "observation": "Gives vic-bis(tosyloxy)stilbene 12 in 23% under standard conditions with Et4NOTs, supporting tosylate trapping of an alkene radical cation."}, {"name": "Koser reagent (PhI(OH)OTs, 13)", "smiles": "O=S(=O)(O[I](O)c1ccccc1)c1ccc(C)cc1", "purpose": "intermediate_trap", "observation": "Stoichiometric addition to 7a (no current) afforded 2-phenylbenzofuran 8a in 31%, mimicking the proposed tosyloxy-cation intermediate."}, {"name": "2,4,6-collidine", "smiles": "Cc1cc(C)nc(C)c1", "purpose": "redox_probe", "observation": "Non-oxidizable base; addition to 1a generates a new oxidation wave at 1.10 V vs SCE, indicating that the deprotonated carboxylate is the species being anodically oxidized."}, {"name": "current off (no electrolysis)", "smiles": null, "purpose": "other", "observation": "No reaction without electric current, confirming the electrochemical origin of the radical intermediates."}], "evidence_types_used": ["H/D_labeling", "intermediate_trap_TEMPO", "intermediate_trap_BHT", "intermediate_trap_other", "stoichiometric_intermediate", "cyclic_voltammetry", "on/off_light_or_current"], "evidence_strength": "strong", "notes": "Selectivity between 5-exo (phthalide 2a, in MeOH) and 6-endo (isochromanone 3a, in HFIP) cyclization of Int-1b is unexplained; both Path A and Path B are retained as possibilities. For benzofuran formation, Path B (tosylate-assisted) is favored over Path A (direct cyclization of Int-7a) because Et4NOTs dramatically raises yield (12% → 62%) and stilbene/Koser control experiments support OTs incorporation, but Path A cannot be excluded. The unexpected formation of isoindolin-1-one 5h in DMSO (a poor H-atom donor) suggests an alternative non-HAT pathway in that case. Chemoselectivity between C–N and C–O bond formation for 2-alkenylbenzamides in MeOH (giving iminoisobenzofurans 6) vs MeCN (giving isoindolinones 5) is not yet explained."}
